US07179827B2
5.3 2-Bromomethyl-5-ethoxy-carbonyl-4-hydroxy-thiazole
2-Methyl-5-ethoxy-carbonyl-4-hydroxy-thiazole (45 g, 0.24 mol) was dissolved in 1 L of carbon tetrachloride. The solution was cooled down to 0° C. N-Bromo succinimide (43 g, 0.24 mol) was added portion-wise at 0° C. The reaction mixture was stirred at 0° C. for 1 hour and then warmed to room temperature. The reaction mixture was stirred at room temperature for overnight. The reaction mixture was then passed through a short pad of celite. Removal of solvent gave crude product as solid, which was washed with ethyl acetate/hexane (1/3) three times (1×40 ml; 2×20 ml) to give 30 g of the title compound (yield: 50%; LC: Retention Time=1.66 min; MS: M+1=267).

reactant | 2-Methyl-5-ethoxy-carbonyl-4-hydroxy-thiazole | 0.24 mol, 45 g | CC=1S(C(=C(N1)O)OCC)=C=O | C7H9NO3S
reactant | N-Bromo succinimide | 0.24 mol, 43 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 1 L | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-5-ethoxy-carbonyl-4-hydroxy-thiazole | 30 g, yield: 50% | BrCC=1S(C(=C(N1)O)OCC)=C=O | C7H8BrNO3S
